US04870187
3,3-Bis(4-fluorophenyl)-2-(5-phenyl-1H-tetrazol-1-yl)-2-propenal
To a solution of 3.2 g (8.2 mmoles) of 3,3-bis(4-fluorophenyl)-2-(5-phenyl-1H-tetrazol-1-yl)-2-propenol in 200 mL of dry methylene chloride at room temperature was added 1.9 g (8.8 mmoles) of pulverized pyridinium chlorochromate in a single portion. The oxidation was allowed to proceed at room temperature for 24 hours. The crude reaction suspension was diluted with 200 mL of hexanes and the resulting dark brownish suspension was filtered through a bed (1 cm thick) of fine silica gel. The pale filtrate was collected and evaporated under reduced pressure to give the desired product. The solid was recrystallized from an ethyl acetate-hexanes mixture to yield 2.9 g (91.1%) of the title compound; m.p.=193.0°-194.5° C.

reactant | 3,3-bis(4-fluorophenyl)-2-(5-phenyl-1H-tetrazol-1-yl)-2-propenol | 8.2 mmoles, 3.2 g | FC1=CC=C(C=C1)C(=C(CO)N1N=NN=C1C1=CC=CC=C1)C1=CC=C(C=C1)F | C22H16F2N4O
reactant | pyridinium chlorochromate | 8.8 mmoles, 1.9 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-(5-phenyl-1H-tetrazol-1-yl)-2-propenal | FC1=CC=C(C=C1)C(=C(C=O)N1N=NN=C1C1=CC=CC=C1)C1=CC=C(C=C1)F | C22H14F2N4O
